US07777047B2
ethyl 7-amino-4-chloro-1-(methoxymethyl)-1H-indole-2-carboxylate
A mixture of ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate (3.18 g), N-chlorosuccinimide (1.74 g) and N,N-dimethylformamide (20 ml) was stirred overnight at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (0.91 g, yield 25%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate | 3.18 g | NC=1C=CC=C2C=C(N(C12)COC)C(=O)OCC | C13H16N2O3
reactant | N-chlorosuccinimide | 1.74 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 7-amino-4-chloro-1-(methoxymethyl)-1H-indole-2-carboxylate | 0.91 g, yield 25% | NC=1C=CC(=C2C=C(N(C12)COC)C(=O)OCC)Cl | C13H15ClN2O3
